US08110687B2
To a solution of 4-(aminomethyl)-3-(trifluoromethyl)aniline (3.42 g, 18.0 mmol) in THF (90 mL), was added BOC anhydride (4.33 g, 19.8 mmol). The reaction was allowed to stir for 18 h. The solvents were evaporated and the residue was purified by column chromatography on silica to give tert-butyl [4-amino-2-(trifluoromethyl)benzyl]carbamate as yellow solid. (4.43 g, 85%). LCMS: (FA) ES+ 291.4.

reactant | 4-(aminomethyl)-3-(trifluoromethyl)aniline | 18.0 mmol, 3.42 g | NCC1=C(C=C(N)C=C1)C(F)(F)F | C8H9F3N2
reactant | BOC anhydride | 19.8 mmol, 4.33 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | tert-butyl [4-amino-2-(trifluoromethyl)benzyl]carbamate | NC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)C(F)(F)F | C13H17F3N2O2
